US07208140B2
a) 1,3,5-Triiodo-2,4,6-tris-(toluenesulfonyloxy)methylbenzene
76.3 g (400 mmol) of toluenesulfonic acid chloride is added in drops to a mixture that consists of 50.0 g (91.4 mmol) of 1,3,5-triiodo-2,4,6-tris-hydroxymethylbenzene and 3 g (8.7 mmol) of tetrabutylammonium hydrogen sulfate in 200 ml of 32% NaOH solution and 300 ml of toluene at room temperature, and then it is stirred for 12 hours. It is mixed with 300 ml of water and extracted twice with 200 ml each of toluene. The combined organic phases are dried on sodium sulfate, the solvent is evaporated to the dry state and chromatographed on silica gel (mobile solvent:hexane/ethyl acetate 10:1). The fractions that contain the product are combined and concentrated by evaporation.

reactant | toluenesulfonic acid chloride | 400 mmol, 76.3 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1,3,5-triiodo-2,4,6-tris-hydroxymethylbenzene | 91.4 mmol, 50.0 g | IC1=C(C(=C(C(=C1CO)I)CO)I)CO | C9H9I3O3
reactant | water | 300 ml | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 8.7 mmol, 3 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | NaOH | 200 ml | [OH-].[Na+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3,5-Triiodo-2,4,6-tris-(toluenesulfonyloxy)methylbenzene | IC1=C(C(=C(C(=C1COS(=O)(=O)C=1C(=CC=CC1)C)I)COS(=O)(=O)C=1C(=CC=CC1)C)I)COS(=O)(=O)C=1C(=CC=CC1)C | C30H27I3O9S3
